US04416683
To a stirred solution of 1.39 g of 3-tert.-butyl-5-amino-1H-pyrazole in 50 ml of benzene were added in one portion 2.01 g of 2,6-dimethoxybenzoyl chloride. The reaction mixture was heated at reflux for sixteen hours. The reaction mixture was then cooled, filtered, and the solvent was removed from the filtrate by evaporation. The residue was crystallized from ethyl acetate to provide 550 mg of N-[3-(1,1-dimethylethyl)-1H-pyrazol-5-yl]-2,6-dimethoxybenzamide.

reactant | 3-tert.-butyl-5-amino-1H-pyrazole | 1.39 g | C(C)(C)(C)C1=NNC(=C1)N | C7H13N3
reactant | 2,6-dimethoxybenzoyl chloride | 2.01 g | COC1=C(C(=O)Cl)C(=CC=C1)OC | C9H9ClO3
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-[3-(1,1-dimethylethyl)-1H-pyrazol-5-yl]-2,6-dimethoxybenzamide | 550 mg, Yield 18% | CC(C)(C)C1=NNC(=C1)NC(C1=C(C=CC=C1OC)OC)=O | C16H21N3O3
